US08865713B2
Step C: 1-(4-Bromo-5,6-dichloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
LiOH.H2O (0.046 g, 1.09 mmol) was added to a mixture of 1-(4-Bromo-5,6-dichloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.088 g, 0.22 mmol), THF (1 mL), and water (0.33 mL), and the mixture was stirred 18 h at 23° C. The solvent was evaporated, water (3 mL) was added and the mixture acidified with 1M HCl. The resulting white precipitate was filtered and dried to yield the titled compound (0.068 g, 83%). MS (ESI/CI): mass calcd. for C11H6BrCl2N4O2, 374.9; m/z found, 375.9 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 8.89 (s, 1H), 8.32 (s, 1H), 7.74 (s, 1H).

reactant | LiOH.H2O | 1.09 mmol, 0.046 g | O[Li].O
reactant | 1-(4-Bromo-5,6-dichloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.22 mmol, 0.088 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2Br)Cl)Cl | C13H9BrCl2N4O2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 0.33 mL | O | H2O
product | 1-(4-Bromo-5,6-dichloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 0.068 g, 83% | BrC1=C(C(=CC=2NC(=NC21)N2N=CC(=C2)C(=O)O)Cl)Cl | C11H5BrCl2N4O2
